US07728150B2
(2-Carboxy-ethyl)-triphenyl-phosphonium bromide
Reflux a solution of triphenylphosphine (91.3 g, 348 mmol, 1.05 equivalents) and 3-bromopropionic acid (50.7 g, 331 mmol) in acetonitrile (250 ml) for three hours, allow to sit at room temperature overnight. Add ether (400 ml) and cool in the freezer for two hours. Filter solids, rinse with ether, and dry solids under high vacuum to obtain the title compound (94.1 g, 68%). NMR (400 MHz, CDCl3): δ 3.15 (m, 2H), 3.73 (m, 2H), 7.69-7.83 (m, 15H).

reactant | triphenylphosphine | 348 mmol, 91.3 g, 1.05 equivalents | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-bromopropionic acid | 331 mmol, 50.7 g | BrCCC(=O)O | C3H5BrO2
reactant | ether | 400 ml | CCOCC | C4H10O
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | (2-Carboxy-ethyl)-triphenyl-phosphonium bromide | 94.1 g, 68% | [Br-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H19O2P.BrH/c22-21(23)16-17-24(18-10-4-1-5-11-18,19-12-6-2-7-13-19)20-14-8-3-9-15-20;/h1-15H,16-17H2;1H
